data/oMe_Silver.jsonl
{"reaction_id": "NR-231_1-c1ccc2ccccc2c1_2-CC(C)C","level": "medium","name": "Seyferth-Gilbert Homologation","reactants_smiles": ["C(=O)(c1ccc2ccccc2c1)([H])","CC(C)COP(=O)(OCC(C)C)C=[N+]=[N-]"],"products_smiles": ["C#[C]c1ccc2ccccc2c1"],"conditions": "[O-]C(C)(C)C","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)COP(=O)(OCC(C)C)[C-]=[N+]=[N-]","step_weight": 0,"rationale": "Strong base deprotonates the acidic methylene adjacent to the phosphonate, stabilized by resonance with the electron-withdrawing phosphonate and diazo group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COP(=O)(OCC(C)C)C(=[N+]=[N-])C([O-])(c1ccc2ccccc2c1)([H])","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic aldehyde carbon, driven by the strong polarization of the C=O bond and stabilization of the alkoxide intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COP1([O-])(OCC(C)C)C(=[N+]=[N-])C(O1)(c1ccc2ccccc2c1)([H])","step_weight": 0,"rationale": "Intramolecular cyclization occurs as the alkoxide attacks the electrophilic phosphorus, favored by proximity and relief of negative charge through P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C=[N+]=[N-])(c1ccc2ccccc2c1)([H])","step_weight": 0,"rationale": "Elimination of the phosphonate leaving group is promoted by its resonance stabilization and the driving force of forming a conjugated diazoalkene."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(c1ccc2ccccc2c1)([H])","step_weight": 0,"rationale": "Loss of nitrogen gas from the diazo group is highly favorable due to the extreme stability of N₂, generating a reactive carbene or alkyne precursor."},{"step": 6,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C#[C]c1ccc2ccccc2c1","step_weight": 0,"rationale": "A 1,2-shift rearranges substituents to form the thermodynamically stable terminal alkyne, driven by formation of a strong C≡C bond."}],"description": "Under basic conditions, the Seyferth–Gilbert homologation converts aldehydes to terminal alkynes via deprotonation of the phosphonate reagent, nucleophilic addition to the carbonyl, cyclization, and sequential eliminations, followed by a rearrangement that forms the C≡C bond. The base promotes anionic intermediates and facilitates leaving group departure."}
{"reaction_id": "NR-210_1-c2ccc(Cl)cc2_2-c2occc2_3-c2cnccc2","level": "medium","name": "Parikh-Doering Oxidation","reactants_smiles": ["O=S(C)(c2ccc(Cl)cc2)","O(C(c2occc2)(c2cnccc2))"],"products_smiles": ["O=C(c2occc2)c2cnccc2"],"conditions": "Et3N,SO3,Py","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=[N+](C=C1)[S](=O)(=O)[O-]","step_weight": 0,"rationale": "SO3 coordinates to pyridine due to pyridine’s nucleophilicity and the strong electrophilicity of sulfur, forming a reactive sulfonyl–pyridinium complex."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C[S+](c2ccc(Cl)cc2)O[S](=O)(=O)[O-]","step_weight": 0,"rationale": "The alcohol oxygen attacks the activated sulfur center, as sulfur is highly electrophilic and pyridine is a good leaving group under these conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([S](c2ccc(Cl)cc2)(O([S](=O)(=O)[O-]))O(C(c2occc2)(c2cnccc2)))","step_weight": 0,"rationale": "The alkoxide generated from the alcohol displaces a leaving group on sulfur, forming an alkoxysulfonium species stabilized by the electron-withdrawing sulfonyl group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S](c2ccc(Cl)cc2)(=C)O(C(c2occc2)(c2cnccc2))","step_weight": 0,"rationale": "Base-induced elimination occurs because the α-proton is acidic due to adjacent positively charged sulfur, generating a sulfur ylide intermediate."},{"step": 5,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "O=C(c2occc2)c2cnccc2","step_weight": 0,"rationale": "The sulfur ylide undergoes a [2,3]-sigmatropic rearrangement, driven by formation of a stable carbonyl and relief of charge separation."}],"description": "In the Parikh–Doering oxidation, the alcohol is oxidized to a carbonyl compound under mild, non-aqueous conditions using SO3–pyridine and triethylamine. The sequence involves activation of the oxidant, formation of an alkoxysulfonium intermediate, elimination to a sulfur ylide, and rearrangement to the carbonyl product."}
